US07569578B2
(±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-4-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (25 mg, 0.53 mmol), (4-bromomethyl) pyridine (14.1 mg 0.055 mmol, 1.05 equiv), and potassium carbonate (22.0 mg, 0.16 mmol) were combined in dimethylformamide (1.0 mL). After stirring at room temperature for 3 d, the solvents were removed and the residue purified by column chromatography to afford 23.0 mg (77%). Mass spec.: 563.3 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.53 mmol, 25 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | potassium carbonate | 0.16 mmol, 22.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-4-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C=1N(C=CN1)CC1=CC=NC=C1)NC(OC(C)(C)C)=O | C30H42N6O3Si
